US08426447B2
A 0.5-2 mL vial was charged with (S)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate (72.4 mg, 0.150 mmol), phenylboronic acid (54.8 mg, 0.449 mmol), potassium carbonate (103 mg, 0.748 mmol), and tetrakis(triphenylphosphine)palladium (8.64 mg, 7.48 μmol). The vial was purged with Ar(g), then Dioxane (748 μL) and water (0.37 mL) were added in sequence. The vial was sealed and placed in a 90° C. oil bath for 1 hour. The mixture was diluted with water (15 mL), and extracted with EtOAc (3×10 mL). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was chromatographed on a 40-g Redi-Sep column eluting with 0-6% MeOH/DCM to give (S)-4-(2′-amino-7-phenyl-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-3-yl)-2-methylbut-3-yn-2-ol as a slightly tan solid

reactant | (S)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate | 0.150 mmol, 72.4 mg | FC(S(=O)(=O)OC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)C#CC(C)(C)O)(F)F | C20H16F3N3O6S
reactant | phenylboronic acid | 0.449 mmol, 54.8 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 0.748 mmol, 103 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 7.48 μmol, 8.64 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-4-(2′-amino-7-phenyl-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-3-yl)-2-methylbut-3-yn-2-ol | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C#CC(C)(O)C)C1=CC=CC=C1 | C25H21N3O3
